US07781463B2
N-(Ethoxycarbonylmethyl)maleimide (Compound 9-D)
Reagents: Ph3P (1.31 g, 5 mmol), DEAD (0.8 ml, 5 mmol), ethyl glycollate (0.71 ml, 7.5 mmol) and maleimide (0.48 g, 5 mmol).

reactant | Ph3P | 5 mmol, 1.31 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | DEAD | 5 mmol, 0.8 ml | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
reactant | ethyl glycollate | 7.5 mmol, 0.71 ml | CCOC(=O)CO | C4H8O3
reactant | maleimide | 5 mmol, 0.48 g | C1(C=CC(N1)=O)=O | C4H3NO2
product | N-(Ethoxycarbonylmethyl)maleimide | C(C)OC(=O)CN1C(C=CC1=O)=O | C8H9NO4
